US04419524
27.9 g. of 2,2-dimethyl-3-(2,2-dichlorovinyl)cyclopropane-1-carboxylic acid ethyl ester (purity: 85%, cis) trans ratio: 40:60/, 6 g. of a 25% aqueous sodium hydroxide solution and 0.01 g. of sodium dodecylbenzene sulfonate are stirred at a temperature of 80° C. for 30 minutes. Hydrolysis is then continued with a further 5 g. portion of sodium hydroxide solution for 60 minutes and subsequently with an additional 5 g. portion of a sodium hydroxide solution for 150 minutes. The mixture is diluted with 30 ml. of water, cooled to 20° C. and the unreacted compounds are dissolved in 10 ml. of hexane. To the aqueous phase 80 ml. of hexane are added and the organic acid is set free by adding 12 g. of a 36% aqueous hydrochloric acid solution with stirring. The hexane solution is separated, decolored with 0.5 g. of activated carbon, filtered, 35 ml. of the solvent are distilled off and the residue is crystallized at -5° C. for 48 hours. The crystals are filtered off and dried. 17.8 g. (85%) of 2,2-dimethyl-3-(2,2-dichlorovinyl)-cyclopropane-1-carboxylic acid are obtained. Cis/trans ratio: 40:60.

reactant | 2,2-dimethyl-3-(2,2-dichlorovinyl)cyclopropane-1-carboxylic acid ethyl ester | C(C)OC(=O)C1C(C1C=C(Cl)Cl)(C)C | C10H14Cl2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium dodecylbenzene sulfonate | C(CCCCCCCCCCC)OS(=O)(=O)C1=CC=CC=C1.[Na]
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 2,2-dimethyl-3-(2,2-dichlorovinyl)-cyclopropane-1-carboxylic acid | 85% | CC1(C(C1C=C(Cl)Cl)C(=O)O)C | C8H10Cl2O2
